US06908916B2
3-(1-{4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl}-piperidin-4-ylamino)-propionitrile
Acrylonitrile (0.2 mL, 30 equiv.) was added to a solution of [5-(4-amino-piperidin-1-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine (47 mg, 0.1 mmole) in MeOH (3 mL) at RT. Removal the solvent followed by radial chromatography (1 mm silica gel plate, gradient elution with DCM containing 0 to 2% MeOH) afforded 40 mg (76%) of the title compound as a solid. MS: 524 (M+H)+; HPLC Ret Time: 0.99 min (Xterra 3.0×50 mm S7 C18 column, 2 min gradient, 5 mL/min).

reactant | Acrylonitrile | 0.2 mL, 30 equiv. | C(C=C)#N | C3H3N
reactant | [5-(4-amino-piperidin-1-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine | 0.1 mmole, 47 mg | NC1CCN(CC1)CC=1C=CN2N=CN=C(C21)NC=2C=C1C=NN(C1=CC2)CC2=CC(=CC=C2)F | C26H27FN8
solvent | MeOH | 3 mL | CO | CH4O
product | 3-(1-{4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl}-piperidin-4-ylamino)-propionitrile | 40 mg, 76% | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NN3C2=C(C=C3)CN3CCC(CC3)NCCC#N)C=CC1 | C29H30FN9
